US07166595B2
a) Ethyl 2-ethoxyethylidene-cyanoacetate
To a stirred solution of Ethyl cyanoacetate (46.8 g, 414 mMol) and Triethyl orthoacetate (84.4 g, 520 mMol), in a 250 mL round bottom flask fitted with a short path distillation head, was added HOAc (1.2 mL, 21 mMol). The reaction was slowly heated to 135° C. and maintained at that temperature to distill off the ethyl alcohol that was produced. (Distillation started at ˜106° C.) At 15 min. intervals HOAc (1.2 mL, 21 mMol) was added to the reaction for an additional three times. The reaction was then slowly heated to 150° C. then cooled back down to ˜80° C. The title product (62.64 g, 82%) was obtained by short path distillation under high vacuum (bp 128° C., HV) as a pale yellow crystalline solid. (Note; Cooling to the condenser was shut off to prevent plugging.): 1H NMR (400 MHz, CDCl3) δ 4.27 (q, 2H), 4.22 (q, 2H), 2.61 (s, 3H), 1.43 (t, 3H), 1.31 (t, 3H).

reactant | Ethyl cyanoacetate | 414 mMol, 46.8 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | Triethyl orthoacetate | 520 mMol, 84.4 g | C(C)(OCC)(OCC)OCC | C8H18O3
catalyst | HOAc | 21 mMol, 1.2 mL | CC(=O)O | C2H4O2
catalyst | HOAc | 21 mMol, 1.2 mL | CC(=O)O | C2H4O2
product | Ethyl 2-ethoxyethylidene-cyanoacetate | 62.64 g, 82% | C(C)OCC=C(C(=O)OCC)C#N | C9H13NO3
